US05389486
6.0 parts of trityl chloride was dissolved in 100 parts of acetonitrile and 5.7 parts of triphenylphosphine was added thereto. The mixture was heated under reflux for 6 hr. The mixture was allowed to stand for cooling and then the solvent was removed to obtain a brown oil which was then crystallized from acetone. The resulting crystals were collected by filtration and washed with acetone to obtain 9.2 parts of triphenyl(triphenylmethyl)phosphonium chloride (compound No. 69).

reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | triphenyl(triphenylmethyl)phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C37H30P.ClH/c1-7-19-31(20-8-1)37(32-21-9-2-10-22-32,33-23-11-3-12-24-33)38(34-25-13-4-14-26-34,35-27-15-5-16-28-35)36-29-17-6-18-30-36;/h1-30H;1H/q+1;/p-1
